US07101891B2
Piperidine-1,3,5-tricarboxylic acid 1-tert-butyl ester 3,5-diethyl ester
Add K2CO3 (46.2 g, 44.4 mmol) and di-t-butyldicarbonate (8.0 g, 37.0 mmol) to a solution of piperidine-3,5-dicarboxylic acid diethyl ester acetate (8.5 g, 37.0 mmol) in THF (80 mL) and water (80 mL). Stir overnight at room temperature then concentrate to dryness. Partition between 20% iPrOH/CHCl3 and water. Extract 2× with CHCl3. Wash with sat. aq NaHCO3, wash with brine, dry over Na2SO4, filter, concentrate to dryness. Purify by column chromatography using 10% EtOAc/hexanes as eluant and concentrate to dryness to afford the title compound (6.5 g, 51%) a a white solid. MS(IS) 330.2 (M+); Anal. Calc'd for C16H27NO6: C, 58.34; H, 8.26; N, 4.25. Found: C, 58.66; H, 8.47; N, 4.36.

reactant | K2CO3 | 44.4 mmol, 46.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-t-butyldicarbonate | 37.0 mmol, 8.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | piperidine-3,5-dicarboxylic acid diethyl ester acetate | 37.0 mmol, 8.5 g | C(C)(=O)O.C(C)OC(=O)C1CNCC(C1)C(=O)OCC
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | 80 mL | O | H2O
product | Piperidine-1,3,5-tricarboxylic acid 1-tert-butyl ester 3,5-diethyl ester | 6.5 g, 51% | C(C)OC(=O)C1CN(CC(C1)C(=O)OCC)C(=O)OC(C)(C)C | C16H27NO6
